US07723330B2
Step E: Preparation of 2-chloro-4-(3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-5-methylaniline:
To a 100 mL round bottom flask added 1-(4-methoxybenzyl)-4-(5-chloro-2-methyl-4-nitrophenoxy)-3-iodo-1H-pyrazolo[3,4-b]pyridine (544 mg, 0.99 mmol) and suspended in absolute ethanol (10 mL). Added tin(II)chloride dihydrate (1.1 g, 4.94 mmol) and stirred at 25° C. under N2(g) for 18 hours, during which a white precipitate formed. The reaction mixture was cooled to 0° C. and the solid was removed by filtration and washed with cold ethanol. The solid was air-dried to afford the desired product as white solid. Yield: 417 mg, 81%. LRMS (APCI pos) m/e 521.1 (M+H).

reactant | 1-(4-methoxybenzyl)-4-(5-chloro-2-methyl-4-nitrophenoxy)-3-iodo-1H-pyrazolo[3,4-b]pyridine | 0.99 mmol, 544 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C(=C3)Cl)[N+](=O)[O-])C)I)C=C1 | C21H16ClIN4O4
reactant | tin(II)chloride dihydrate | 4.94 mmol, 1.1 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-chloro-4-(3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-5-methylaniline | ClC1=C(N)C=C(C(=C1)OC1=C2C(=NC=C1)N(N=C2I)CC2=CC=C(C=C2)OC)C | C21H18ClIN4O2
